### PR TITLE
feat: add `BitVec.(toInt, toFin)_rotate(Left, Right)`

### PR DESCRIPTION
**Pull request by luisacicolini**
This PR introduces `BitVec.(toInt, toFin)_rotate(Left, Right)`, completing the API for `BitVec.rotate(Left, Right)`

### CODE REVIEW

**Comment by luisacicolini** [comment]
changelog-library

**Review by tobiasgrosser — APPROVED** [review]
LGTM

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -4015,6 +4015,16 @@ theorem toNat_rotateLeft {x : BitVec w} {r : Nat} :
     (x.rotateLeft r).toNat = (x.toNat <<< (r % w)) % (2^w) ||| x.toNat >>> (w - r % w) := by
   simp only [rotateLeft_def, toNat_shiftLeft, toNat_ushiftRight, toNat_or]
 
+theorem toInt_rotateLeft {x : BitVec w} {r : Nat} :
+  (x.rotateLeft r).toInt =
+    ((x <<< (r % w)).toNat ||| (x >>> (w - r % w)).toNat : Int).bmod (2 ^ w) := by
+  simp only [rotateLeft_def, toInt_shiftLeft, toInt_ushiftRight, toInt_or]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:4021]: Does this need to be simp_only, or can it be just `simp`?

Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: can be `simp`, just replaced!

**Comment by luisacicolini** [comment]
awaiting-review
